US07579351B2
2-(2-Hydroxy-ethyl)-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
To a cooled solution of 0.145 g (0.30 mmol) 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one in 3 mL dichloromethane, 1 mL (1.49 g, 13 mmol) trifluoroacetic acid was added and the cooling bath was removed. The solution was evaporated and the residue was taken up in ethyl acetate and was washed with 1M aqueous sodium hydroxide solution and brine. The organic layer was dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) to give the desired compound as a white foam (88%).

reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 0.30 mmol, 0.145 g | C(C)(C)(C)[Si](OCCN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)CC1)=O)(C)C | C27H43N3O3Si
reactant | trifluoroacetic acid | 13 mmol, 1 mL, 1.49 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2-(2-Hydroxy-ethyl)-8-(1-isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 88% | OCCN1C(C=2N(C=3C=CC(=CC3C2)OC2CCN(CC2)C(C)C)CC1)=O | C21H29N3O3
